US04710323
4-Bromophenyl-3,4-diaminophenyl sulfoxide
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of 4-bromophenyl-(4-amino-3-nitrophenyl) sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | 4-bromophenyl-(4-amino-3-nitrophenyl) sulfoxide | BrC1=CC=C(C=C1)C1=C(C=CC(=C1[N+](=O)[O-])N)S(=O)C1=C(C(=C(C=C1)N)[N+](=O)[O-])C1=CC=C(C=C1)Br | C24H16Br2N4O5S
product | 4-Bromophenyl-3,4-diaminophenyl sulfoxide | BrC1=CC=C(C=C1)C1=C(C=CC(=C1N)N)S(=O)C1=C(C(=C(C=C1)N)N)C1=CC=C(C=C1)Br | C24H20Br2N4OS
